US05534646
2,4-Di{2,6-di-tert-butyl-4-[2-(methoxycarbonyl)ethyl]phenoxy }-1,3-diphenyl-1,3,2,4diazadiphosphetidine
The procedure of Example 1 is repeated using 2,4-dichloro-1,3-diphenyl-1,3,2,4-diazadiphosphetidine, methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate and triethylamine to give the title compound.

reactant | 2,4-dichloro-1,3-diphenyl-1,3,2,4-diazadiphosphetidine | ClP1N(P(N1C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C12H10Cl2N2P2
reactant | methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate | C(C)(C)(C)C=1C=C(CCC(=O)OC)C=C(C1O)C(C)(C)C | C18H28O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,4-Di{2,6-di-tert-butyl-4-[2-(methoxycarbonyl)ethyl]phenoxy }-1,3-diphenyl-1,3,2,4diazadiphosphetidine | C(C)(C)(C)C1=C(OP2N(P(N2C2=CC=CC=C2)OC2=C(C=C(C=C2C(C)(C)C)CCC(=O)OC)C(C)(C)C)C2=CC=CC=C2)C(=CC(=C1)CCC(=O)OC)C(C)(C)C | C48H64N2O6P2
